US04678792
2-(2-Chlorobenzyl)-5-methyl-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 5-methyl-3,4-dihydro-isoquinoline and 2-chlorobenzyl chloride in dioxan. Melting point: 166°-168° C.

reactant | 5-methyl-3,4-dihydro-isoquinoline | CC1=C2CCN=CC2=CC=C1 | C10H11N
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(2-Chlorobenzyl)-5-methyl-3,4-dihydroisoquinolinium chloride | [Cl-].ClC1=C(C[N+]2=CC3=CC=CC(=C3CC2)C)C=CC=C1 | InChI=1S/C17H17ClN.ClH/c1-13-5-4-7-14-11-19(10-9-16(13)14)12-15-6-2-3-8-17(15)18;/h2-8,11H,9-10,12H2,1H3;1H/q+1;/p-1
